US06982348B2
3) (2RS,3RS)-2-(4-tert-butylbenzyl)-3-(3-chlorophenyl)-3-hydroxypropanoic acid
To a solution of ethyl (2RS,3RS)-2-(4-tert-butylbenzyl)-3-(3-chlorophenyl)-3-hydroxypropanoate (26.5 g, 70.7 mmol) in ethanol (200 ml) was added 2N aqueous sodium hydroxide solution (70 ml, 140 mmol), and the mixture was stirred overnight at room temperature. The reaction solution was concentrated, acidified with 1N hydrochloric acid and extracted with ethyl acetate (500 ml×2). The extract was washed with water and saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give the objective substance (15.0 g, 59%).

reactant | ethyl (2RS,3RS)-2-(4-tert-butylbenzyl)-3-(3-chlorophenyl)-3-hydroxypropanoate | 70.7 mmol, 26.5 g | C(C)(C)(C)C1=CC=C(CC(C(=O)OCC)C(O)C2=CC(=CC=C2)Cl)C=C1 | C22H27ClO3
reactant | sodium hydroxide | 140 mmol, 2N, 70 ml | [OH-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | (2RS,3RS)-2-(4-tert-butylbenzyl)-3-(3-chlorophenyl)-3-hydroxypropanoic acid | C(C)(C)(C)C1=CC=C(CC(C(=O)O)C(O)C2=CC(=CC=C2)Cl)C=C1 | C20H23ClO3
